US07235572B2
d] [rac]-(6-{4-Hydroxy-1-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-butoxy}-indol-1-yl)-acetic acid tert-butyl ester
A 1 M solution of tetrabutylammonium fluoride hydrate (30 μl, 30 μmol) was added to an ice-cooled solution of [rac]-(6-[4-(tert-butyl-dimethyl-silanyloxy)-1-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-butoxy}-indol-1-yl)-acetic acid tert-butyl ester (17 mg, 25 μmol) in tetrahydrofuran (0.5 ml). The ice bath was removed and the solution stirred for 30 min at ambient temperature. Ethyl acetate was added and the solution was washed with 1 N HCl. The aqueous layer was extracted with ethyl acetate and the combined extracts were washed two times with brine and dried over sodium sulfate. Evaporation of the solvent gave 14 mg (25 μmol, quant.) of the title compound as yellow oil.

reactant | tetrabutylammonium fluoride hydrate | 30 μmol, 30 μl | O.[F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | [rac]-(6-[4-(tert-butyl-dimethyl-silanyloxy)-1-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-butoxy}-indol-1-yl)-acetic acid tert-butyl ester | 25 μmol, 17 mg | C(C)(C)(C)OC(CN1C=CC2=CC=C(C=C12)OC(CCCO[Si](C)(C)C(C)(C)C)C1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)=O | C35H45F3N2O4SSi
solvent | tetrahydrofuran | 0.5 ml | O1CCCC1 | C4H8O
product | [rac]-(6-{4-Hydroxy-1-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-butoxy}-indol-1-yl)-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1C=CC2=CC=C(C=C12)OC(CCCO)C1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)=O | C29H31F3N2O4S
